US05780483
a) Preparation of 2-nitro-5-trifluoromethylphenol
2-Nitro-5-trifluoromethylphenol was prepared by adding concentrated HNO3 (6 mL) drop-wise to a,a,a-trifluoro-m-cresol (5 g, 30.8 mmol) at room temperature. After the addition was complete the reaction was quenched with saturated ammonium acetate and extracted with EtOAc. The organic was separated, dried over sodium sulfate and filtered. Concentration of the solution in vacuo afforded an oil which was purified by column chromatography (gradient 100% hexane to 50% EtOAc/hexanes) to afford the titled compound as an oil(1.7 g, 27%). 1H NMR (CDCl3): 10.6 (s, 1H, OH), 8.26(d, 1H, J=7.8 Hz), 7.45(s, 1H, arom), 7.26(d, 1H, J=7.8 Hz)

reactant | HNO3 | 6 mL | [N+](=O)(O)[O-] | HNO3
reactant | a,a,a-trifluoro-m-cresol | 30.8 mmol, 5 g | C1=CC(=CC(=C1)O)C(F)(F)F | C7H5F3O
product | 2-nitro-5-trifluoromethylphenol | 1.7 g, 27% | [N+](=O)([O-])C1=C(C=C(C=C1)C(F)(F)F)O | C7H4F3NO3
